US04181655
5-(3-Dimethylaminopropyl)-10-trifluoromethoxy-5H-dibenz[b,f]azepine
10-Trifluoromethoxy-5H-dibenz[b,f]azepine (650 mg) was refluxed with NaH (600 mg, 57% suspension) in a solution of 3-dimethylaminopropyl chloride (ca. 2.0 g) in dimethyl ether (70 ml) overnight. The excess of NaH was destroyed with MeOH (10 ml) and the solvent removed under vacuum. The remaining gum was dissolved in ether (50 ml), washed with water (2×20 ml) and extracted into 2 N H2SO4 (2×20 ml). The extracts were combined, neutralized with NaHCO3 and extracted with ether (3×20 mls). The ether extracts were washed with water (2×20 mls), dried (Na2SO4) and the ether removed under vacuum.

reactant | 10-Trifluoromethoxy-5H-dibenz[b,f]azepine | 650 mg | FC(OC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2)(F)F | C15H10F3NO
reactant | NaH | 600 mg | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | ca. 2.0 g | CN(CCCCl)C | C5H12ClN
solvent | dimethyl ether | 70 ml | COC | C2H6O
product | 5-(3-Dimethylaminopropyl)-10-trifluoromethoxy-5H-dibenz[b,f]azepine | CN(CCCN1C2=C(C=C(C3=C1C=CC=C3)OC(F)(F)F)C=CC=C2)C | C20H21F3N2O
